US05366987
(f) (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide
To a room temperature, stirred solution of 3-dodecyl-α-phenyl-5-isoxazole acetic acid and 5-dodecyl-α-phenyl-3-isoxazole acetic acid (48.42 g, 0.1303 mol) in dry tetrahydrofuran (1.4 L) was added in one portion 1,1'-carbonyldiimidazole (22.5 g, 0.139 mol), and the solution was stirred for 1.9 hours under nitrogen. To the mixture was added 2,4,6-trimethoxyaniline hydrochloride (28.5 g, 0.130 mol) and triethylamine (19 mL, 0.14 mol), and the mixture was stirred for 1.8 days under nitrogen. The mixture was rotoevaporated and partitioned between ethyl acetate and 1M HCl. The organic layer was washed (1M HCl; saturated NaCl), dried (MgSO4), and rotoevaporated to a tar. The tar was dissolved (THF) and repeatedly chromatographed on silica gel (230-400 mesh) using Heptane-ether-triethylamine-methanol (20:40:6:1) as eluent. Fractions containing pure compound were combined, rotoevaporated, dissolved in toluene, and reevaporated. The residue was crystallized from diisopropyl ether to give pure title compound; yield 17.6 g (25%); mp 107°-108° C.

reactant | 3-dodecyl-α-phenyl-5-isoxazole acetic acid | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 5-dodecyl-α-phenyl-3-isoxazole acetic acid | 0.1303 mol, 48.42 g | C(CCCCCCCCCCC)C1=CC(=NO1)C(C(=O)O)C1=CC=CC=C1 | C23H33NO3
reactant | 1,1'-carbonyldiimidazole | 0.139 mol, 22.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,4,6-trimethoxyaniline hydrochloride | 0.130 mol, 28.5 g | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | triethylamine | 0.14 mol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.4 L | O1CCCC1 | C4H8O
product | (±)-3-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-5-isoxazole acetamide | C(CCCCCCCCCCC)C1=NOC(=C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C32H44N2O5
